US08580783B2
2-(2-benzo[1,3]dioxol-5-yl-acetylamino)-4,6-difluoro-benzoic acid methyl ester (VII)
To a 0-5° C. cooled suspension of 2-(2-benzo[1,3]dioxol-5-yl-acetylamino)-4,6-difluoro-benzoic acid (0.50 g, 1.49 mmol) in dichloromethane (20 mL) was added 2 M (trimethylsilyl)diazomethane diethyl ether solution (0.82 mL, 1.64 mmol). The mixture was stirred at room temperature for 1 h, then the solvent was evaporated, to provide the title compound (0.52 g, 98% yield).

reactant | 2-(2-benzo[1,3]dioxol-5-yl-acetylamino)-4,6-difluoro-benzoic acid | 1.49 mmol, 0.50 g | O1COC2=C1C=CC(=C2)CC(=O)NC2=C(C(=O)O)C(=CC(=C2)F)F | C16H11F2NO5
reactant | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | 2-(2-benzo[1,3]dioxol-5-yl-acetylamino)-4,6-difluoro-benzoic acid methyl ester | 0.52 g, 98% yield | COC(C1=C(C=C(C=C1F)F)NC(CC1=CC2=C(OCO2)C=C1)=O)=O | C17H13F2NO5
